US04381395
To a solution of sodium metal (1.01 g) in ethanol (120 ml) were added cyanamide (18.5 g) and N-cyano-S-methyl-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]isothiourea (10.76 g). The resulting mixture was heated under reflux for 1.5 hrs. After concentration under a reduced pressure, the residue was added to cold water (50 ml) and acidified (pH 4.5) with 10% HCl and cooled for 1 hr. in an ice bath. The precipitate was filtered, washed with water and dried. The resulting crude product (7.43 g) was recrystallized from C2H5OH-H2O (1:1) to give N,N'-dicyano-N"-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine (5.17 g).

reactant | sodium | 1.01 g | [Na] | Na
reactant | cyanamide | 18.5 g | N#CN | CH2N2
reactant | N-cyano-S-methyl-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]isothiourea | 10.76 g | C(#N)NC(SC)=NCCSCC=1N=CNC1C | C10H15N5S2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N,N'-dicyano-N"-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine | 5.17 g, Yield 49.2% | C(#N)NC(=NCCSCC=1N=CNC1C)NC#N | C10H13N7S
